US03973946
To a mixture of 5.4 g of 3-amino-tetrahydro-1,3-oxazine-2-one and 50 ml glyme was added 5.0 ml of phenyl isocyanate. After an exothermic reaction a white solid formed. The mixture was refluxed for 1 hr; cooled; diluted with hexane and filtered. The solid product was crystallized from 200 ml of ethanol to give 5.8 g (53% yield) of white cotton-like needles of 1-(tetrahydro-2-oxo-1,3-oxazin-3-yl)-3-phenylurea, mp 204°-207°.

reactant | 3-amino-tetrahydro-1,3-oxazine-2-one | 5.4 g | NN1C(OCCC1)=O | C4H8N2O2
reactant | glyme | 50 ml | C(OC)COC | C4H10O2
reactant | phenyl isocyanate | 5.0 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | hexane | CCCCCC | C6H14
product | 1-(tetrahydro-2-oxo-1,3-oxazin-3-yl)-3-phenylurea | 53% yield | O=C1OCCCN1NC(=O)NC1=CC=CC=C1 | C11H13N3O3
